US06911561B2
In a manner similar to that of Example 1, H2O2 (>95%) was combined with pentafluoropropionic anhydride to give bis(pentafluoropropanoyl) peroxide (δ−85.1, −121.3) in pentafluoropropionic acid.

reactant | H2O2 | OO | H2O2
reactant | pentafluoropropionic anhydride | FC(C(C(=O)OC(C(C(F)(F)F)(F)F)=O)(F)F)(F)F | C6F10O3
solvent | pentafluoropropionic acid | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
product | bis(pentafluoropropanoyl) peroxide | FC(C(=O)OOC(C(C(F)(F)F)(F)F)=O)(C(F)(F)F)F | C6F10O4
